### PR TITLE
[Merged by Bors] - fix: add some robustness to fragile declarations

### PR DESCRIPTION
**Pull request by fpvandoorn**
These declarations broke when I tweaked instances a little bit (in a separate branch that is not ready yet), and I think these declarations can use some extra robustness (usually by providing some extra information explicitly).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Preadditive/SingleObj.lean [hunk 1]
```diff
@@ -19,8 +19,8 @@ namespace CategoryTheory
 variable {α : Type _} [Ring α]
 
 instance : Preadditive (SingleObj α) where
-  add_comp _ _ _ f f' g := mul_add g f f'
-  comp_add _ _ _ f g g' := add_mul g g' f
+  add_comp _ _ _ f f' g := by exact mul_add g f f'
+  comp_add _ _ _ f g g' := by exact add_mul g g' f
```
Comment (eric-wieser) [inline Mathlib/CategoryTheory/Preadditive/SingleObj.lean:23]: These changes are pretty weird, and I don't think they're justifiable outside the context of your other PR

File: Mathlib/RingTheory/UniqueFactorizationDomain.lean [hunk 2]
```diff
@@ -2009,11 +2009,13 @@ theorem factorization_eq_count {n p : α} :
 #align factorization_eq_count factorization_eq_count
 
 @[simp]
-theorem factorization_zero : factorization (0 : α) = 0 := by simp [factorization]
+theorem factorization_zero : factorization (0 : α) = 0 := by
+  simp [factorization, map_zero Multiset.toFinsupp]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/UniqueFactorizationDomain.lean:2013]: These are a bit strange too

File: Mathlib/CategoryTheory/Preadditive/SingleObj.lean (hunk 1 above)
Comment (fpvandoorn) [reply Mathlib/CategoryTheory/Preadditive/SingleObj.lean:23]: I don't disagree, but apparently the current proof is so fragile that it breaks when instance priorities change. Isn't that enough justification to change the current proof?
I'd like to get out of the state where proofs are as fragile as possible such that Lean accepts them, but the tiniest change breaks them. Of course, it is generally hard to find out whether you are in such a state.

Comment (eric-wieser) [reply Mathlib/CategoryTheory/Preadditive/SingleObj.lean:23]: I'd claim that _every_ proof is to done extent fragile WRT changes to instance priorities: so this change is only relevant to the specific priority change you made.

For that reason, I think it should be in the same PR as those changes: otherwise someone might just undo it again in a cleanup pass.

The other viewpoint would be "use by exact everywhere", but if that's really the answer to avoiding fragility then that sounds like a lean bug...

The other changes in this PR are about being more explicit, which is good by itself: my objection to this one is that it's an elaboration hack that's isolated from the thing that justified it.

Comment (fpvandoorn) [inline Mathlib/CategoryTheory/Preadditive/SingleObj.lean:23]:
```suggestion
  add_comp _ _ _ f f' g := mul_add g f f'
  comp_add _ _ _ f g g' := add_mul g g' f
```

File: Mathlib/RingTheory/UniqueFactorizationDomain.lean (hunk 2 above)
Comment (fpvandoorn) [inline Mathlib/RingTheory/UniqueFactorizationDomain.lean:2013]:
```suggestion
theorem factorization_zero : factorization (0 : α) = 0 := by simp [factorization]
```

File: Mathlib/CategoryTheory/Preadditive/SingleObj.lean (hunk 1 above)
Comment (fpvandoorn) [reply Mathlib/CategoryTheory/Preadditive/SingleObj.lean]: Ok, that's fair.

File: Mathlib/RingTheory/UniqueFactorizationDomain.lean [hunk 3]
```diff
@@ -2013,7 +2013,8 @@ theorem factorization_zero : factorization (0 : α) = 0 := by simp [factorizatio
 #align factorization_zero factorization_zero
 
 @[simp]
-theorem factorization_one : factorization (1 : α) = 0 := by simp [factorization]
+theorem factorization_one : factorization (1 : α) = 0 := by
+  simp [factorization, map_zero Multiset.toFinsupp]
```
Comment (fpvandoorn) [inline Mathlib/RingTheory/UniqueFactorizationDomain.lean:2017]:
```suggestion
theorem factorization_one : factorization (1 : α) = 0 := by simp [factorization]
```

**Comment by kmill** [comment]
It looks like they do, but if you're sure these have the same types then feel free to merge.

bors r+

**Comment by kmill** [comment]
Oh, oops, I mistyped the command, and I guess I merged. That's fine. Thanks!
